US07052557B2
Cleaning Filters Using Hypochlorite/TEMPO
A solution containing 1000 ppm of hypochlorite and 35 ppm of TEMPO for half an hour was used to clean the membranes. The reaction pH was adjusted to 10. The cold water flux (cwf) of the virginal membrane was 6000 l/h/m2. The cwf after cleaning was also 6000 l/h/m2.

reactant | hypochlorite | Cl[O-]
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | water | O | H2O
product | Hypochlorite TEMPO | Cl[O-].CC1(CCCC(N1[O])(C)C)C | InChI=1S/C9H18NO.ClO/c1-8(2)6-5-7-9(3,4)10(8)11;1-2/h5-7H2,1-4H3;/q;-1
